US07531532B2
4-Dimethylamino-1-benzylpiperidine dihydrochloride
After adding 1-benzyl-4-piperidone (20 ml) and acetic acid (6.15 ml) to a suspension of dimethylamine hydrochloride (11.0 g) in dichloroethane (300 ml), the mixture was stirred in an ice bath. Sodium triacetoxyborohydride (34.3 g) was added thereto, and after stirring in an ice bath for 20 minutes, the mixture was further stirred for 5.5 hours at room temperature. Water (200 ml) was then added to the reaction mixture. Sodium carbonate was further added thereto until the aqueous layer became weakly alkaline, and the mixture was stirred for 10 minutes at room temperature. It was then partitioned and the aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate. The dried organic layer was concentrated under reduced pressure. Diethyl ether (100 ml) and a 4N hydrochloric acid-ethyl acetate solution (59.5 ml) were added to the residue. This was diluted with diethyl ether (50 ml) and hexane (50 ml), and then the solid was filtered. The filtered solid was washed with diethyl ether. It was then subjected to aeration drying to provide a crude product of the title compound (30.0 g) as a pale brown solid.

reactant | 1-benzyl-4-piperidone | 20 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | dimethylamine hydrochloride | 11.0 g | Cl.CNC
reactant | Sodium triacetoxyborohydride | 34.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 300 ml | ClC(C)Cl | C2H4Cl2
solvent | Water | 200 ml | O | H2O
solvent | acetic acid | 6.15 ml | C(C)(=O)O | C2H4O2
product | 4-Dimethylamino-1-benzylpiperidine dihydrochloride | 30.0 g | Cl.Cl.CN(C1CCN(CC1)CC1=CC=CC=C1)C | InChI=1S/C14H22N2.2ClH/c1-15(2)14-8-10-16(11-9-14)12-13-6-4-3-5-7-13;;/h3-7,14H,8-12H2,1-2H3;2*1H
